US06521754B2
N-(4.6-Difluoro-benzothiazol-2-yl)-benzamide
Using 2-amino-4,6-difluoro-benzothiazole and benzoyl chloride the title compound was prepared as a beige solid (82% yield), MS: m/e=290 (M+).

reactant | 2-amino-4,6-difluoro-benzothiazole | NC=1SC2=C(N1)C(=CC(=C2)F)F | C7H4F2N2S
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-(4.6-Difluoro-benzothiazol-2-yl)-benzamide | FC1=CC(=CC2=C1N=C(S2)NC(C2=CC=CC=C2)=O)F | C14H8F2N2OS
